US04826982
Diethyl 3-bromo-2,4,5-trifluorobenzoylmalonate
Magnesium turnings (0.22 g) and carbon tetrachloride (0.1 ml) was added to absolute ethanol (1.5 ml). To the stirring suspension was added dropwise a solution of diethyl malonate (1.4 g) and absolute ethanol (2 ml) in toluene (6 ml) during 25 minutes at 50°-60° C. The mixture was stirred for 40 minutes, and then cooled. A solution of 3-bromo-2,4,5-trifluorobenzoyl chloride (2.27 g) in anhydrous toluene (3 ml) was added dropwise to the solution at -8°~-4.5° C. during 28 minutes. The mixture was stirred for 2 hours and then mixed with ice-chilled diluted sulfuric acid. The resulting organic layer was collected and the water layer was extracted with toluene (6 ml×4). The combined organic layer was washed with water, dried over anhydrous sodium sulfate and then concentrated to give the title compound (3.25 g) as pale yellow oil.

reactant | Magnesium | 0.22 g | [Mg] | Mg
reactant | diethyl malonate | 1.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-bromo-2,4,5-trifluorobenzoyl chloride | 2.27 g | BrC=1C(=C(C(=O)Cl)C=C(C1F)F)F | C7HBrClF3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | 0.1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Diethyl 3-bromo-2,4,5-trifluorobenzoylmalonate | 3.25 g | BrC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1F)F)F | C14H12BrF3O5
